US07504408B2
4-{3-[(4-{[5-chloro-7-(4-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-yl]amino}-6-methoxyquinazolin-7-yl)oxy]propyl}-1-methylpiperazin-2-one
This was prepared by the method described in example 13 using N-[5-Chloro-7-(4-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-yl]-7-(3-chloropropoxy)-6-methoxyquinazolin-4-amine (200 mg, 0.40 mmol) and 1-methylpiperazin-2-one (226 mg, 1.98 mmol) in 2-methoxyethanol (4 ml). The crude product was purified by column chromatography on silica using increasing concentrations of methanol in dichloromethane as eluent. There was thus obtained the title compound (166 mg, 72%) as a pale brown solid; NMR Spectrum:(CDCl3) 2.10 (quintet, 2H), 2.61 (t,2H), 2.72 (m, 4H), 2.95 (s, 3H), 3.15 (s, 2H), 3.31 (t, 2H), 3.40 (s, 3H), 3.61 (t, 2H), 3.98 (s, 3H), 4.25 (t, 2H), 6.06 (s, 2H), 6.96 (s, 1H), 7.03 (s, 1H), 7.12 (s, 1H), 7.26 (s, 1H), 8.60 (s, 1H); Mass Spectrum: M+H+ 582/584.

reactant | N-[5-Chloro-7-(4-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-yl]-7-(3-chloropropoxy)-6-methoxyquinazolin-4-amine | 0.40 mmol, 200 mg | ClC1=C(C2=C(OCO2)C(=C1)C#CCCOC)NC1=NC=NC2=CC(=C(C=C12)OC)OCCCCl | C24H23Cl2N3O5
reactant | 1-methylpiperazin-2-one | 1.98 mmol, 226 mg | CN1C(CNCC1)=O | C5H10N2O
solvent | 2-methoxyethanol | 4 ml | COCCO | C3H8O2
product | 4-{3-[(4-{[5-chloro-7-(4-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-yl]amino}-6-methoxyquinazolin-7-yl)oxy]propyl}-1-methylpiperazin-2-one | 166 mg, 72% | ClC1=C(C2=C(OCO2)C(=C1)C#CCCOC)NC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CC(N(CC1)C)=O | C29H32ClN5O6
